US06750232B2
Isopropyl 3-(2-furyl)-3-oxopropanethioate
A mixture of isopropyl (methylsulfanyl)methanethioate (7.0 g, 46.7 mmol), 2-acetyl furan (5.14 g, 46.7 mmol), potassium t-butoxide (10.5 g, 93.5 mmol) and t-butanol (35 mL) was stirred overnight at room temperature. Ice was added to the reaction solution, followed by acidifying with 5 N hydrochloric acid. The solid was collected by filtration and washed with water, to give the title compound (3.7 g, 37%).

reactant | isopropyl (methylsulfanyl)methanethioate | 46.7 mmol, 7.0 g | CSC(OC(C)C)=S | C5H10OS2
reactant | 2-acetyl furan | 46.7 mmol, 5.14 g | C(C)(=O)C=1OC=CC1 | C6H6O2
reactant | potassium t-butoxide | 93.5 mmol, 10.5 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | 5 N | Cl | ClH
solvent | t-butanol | 35 mL | C(C)(C)(C)O | C4H10O
product | Isopropyl 3-(2-furyl)-3-oxopropanethioate | 3.7 g, 37% | O1C(=CC=C1)C(CC(OC(C)C)=S)=O | C10H12O3S
